US05420362
Sibi et al (J. Org. Chem., 48 (11), 1935-1937, 1983) disclose reaction of 1-naphthol with diethyl carbamyl chloride in pyridine to produce a 1-naphthyl carbamate. Treatment of 1-naphthyl carbamate under the standard conditions for methylation of tertiary amides (1.1 equiv. sec-BuLi/TMEDA/THF/-78° C./1 hour) followed by quenching with methyl iodide, warming to room temperature (8 to 12 hours) and NH4Cl work-up, afforded 2-methyl-1-naphthyl carbamate in a yield of 90%. Carbamate removal was effected in a yield of 90% by reduction (LAH/THF/reflux;H+) or hydrolysis (NaOH/aqueous CH3OH or HO(CH2)2OH/reflux) to yield 2-methyl-1-naphthol.

reactant | Sibi | CC(C)CSC[C@@H]1[C@H]([C@H]([C@@H](O1)N2C=NC3=C2NC=NC3=O)O)O | C14H20N4O4S
reactant | 1-naphthol | C1(=CC=CC2=CC=CC=C12)O | C10H8O
reactant | diethyl carbamyl chloride | C(C)N(C(=O)Cl)CC | C5H10ClNO
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 1-naphthyl carbamate | C(N)(OC1=CC=CC2=CC=CC=C12)=O | C11H9NO2
